US06002008
4-(4-Bromo-3-hydroxy-phenylamino)-8-methoxy-quinoline-3-carbonitrile
Using an analogous procedure to that described in Example 274. A reaction mixture of 250.0 mg (1.1 mmol) of 4-chloro-8-methoxy -3-quinolinecarbonitrile, 131.7 mg (1.1 mmol) of pyridine hydrochloride and 286.7 mg (1.3 mmol) of 4-bromo-3-hydroxy-aniline in 10 mL of 2-ethoxyethanol was heated at 100° C. for 1.5 hr. The work up gave 374.1 mg (88.6%) of the product as a pink solid, m.p. 146° C. (dec.), mass spectrum (electrospray, m/e): M+H 369.9.

reactant | 4-chloro-8-methoxy -3-quinolinecarbonitrile | 1.1 mmol, 250.0 mg | ClC1=C(C=NC2=C(C=CC=C12)OC)C#N | C11H7ClN2O
reactant | pyridine hydrochloride | 1.1 mmol, 131.7 mg | Cl.N1=CC=CC=C1
reactant | 4-bromo-3-hydroxy-aniline | 1.3 mmol, 286.7 mg | BrC1=C(C=C(N)C=C1)O | C6H6BrNO
solvent | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
product | 4-(4-Bromo-3-hydroxy-phenylamino)-8-methoxy-quinoline-3-carbonitrile | BrC1=C(C=C(C=C1)NC1=C(C=NC2=C(C=CC=C12)OC)C#N)O | C17H12BrN3O2
